2176-09-28 10:42:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   66M with DM, htn, dvts, LE ulces, septic shock at OSH with new afib,
   ARF requiring HD briefly, initially transferred to vascular, the to ICU
   and intubated with worsening pulmonary edema and hypotension.
   24 Hour Events:
 EKG - At [**2176-9-27**] 01:57 PM
   - weaning levophed, off this am
   - switched to bolus sedation; awake this am
   History obtained from Patient
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Penicillin G potassium - [**2176-9-26**] 01:15 PM
   Piperacillin/Tazobactam (Zosyn) - [**2176-9-27**] 08:13 PM
   Piperacillin - [**2176-9-28**] 08:00 AM
   Vancomycin - [**2176-9-28**] 09:51 AM
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2176-9-27**] 01:40 PM
   Midazolam (Versed) - [**2176-9-28**] 12:25 AM
   Other medications:
   allopur, tricor, [**Last Name (LF) 8896**], [**First Name3 (LF) **], vanco 1q24, norepi, heparin,
   hydrocort, zantac, chlorhex
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain
   Genitourinary: No(t) Foley
   Signs or concerns for abuse : No
   Pain: [**4-10**] Moderate
   Pain location: abdomen
   Flowsheet Data as of  [**2176-9-28**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.5
   HR: 60 (55 - 81) bpm
   BP: 72/24(37) {72/24(37) - 148/68(87)} mmHg
   RR: 13 (8 - 26) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 72 Inch
   CVP: 12 (6 - 29)mmHg
   Total In:
                                                                  1,558 mL
                                                                  1,220 mL
   PO:
   TF:
   IVF:
                                                                  1,498 mL
                                                                  1,100 mL
   Blood products:
   Total out:
                                                                  2,690 mL
                                                                    640 mL
   Urine:
                                                                  1,690 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,132 mL
                                                                    580 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 879 (596 - 879) mL
   PS : 10 cmH2O
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 19
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.30/43/109/21/-4
   Ve: 8.7 L/min
   PaO2 / FiO2: 273
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Tender: mild
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   66 K/uL
   149 mg/dL
   2.2 mg/dL
   21 mEq/L
   3.6 mEq/L
   88 mg/dL
   112 mEq/L
   143 mEq/L
   24.3 %
   3.3 K/uL
        [image002.jpg]
                            [**2176-9-26**]  08:30 PM
                            [**2176-9-26**]  11:47 PM
                            [**2176-9-27**]  04:14 AM
                            [**2176-9-27**]  04:36 AM
                            [**2176-9-27**]  06:58 AM
                            [**2176-9-27**]  09:33 AM
                            [**2176-9-27**]  11:31 AM
                            [**2176-9-27**]  01:45 PM
                            [**2176-9-27**]  05:49 PM
                            [**2176-9-28**]  04:58 AM
   WBC
   5.4
   3.3
   Hct
   28.3
   24.3
   Plt
   62
   66
   Cr
   2.3
   2.2
   2.2
   TCO2
   19
   20
   19
   17
   21
   20
   22
   Glucose
   [**Telephone/Fax (3) 8894**]
   Other labs: PT / PTT / INR:21.3/63.8/2.0, CK / CKMB /
   Troponin-T:76//0.38, Alk Phos / T Bili:/1.1, Differential-Neuts:79.2 %,
   Lymph:9.0 %, Mono:8.1 %, Eos:3.3 %, D-dimer:1397 ng/mL, Fibrinogen:565
   mg/dL, Lactic Acid:1.3 mmol/L, LDH:252 IU/L, Ca++:7.8 mg/dL, Mg++:2.0
   mg/dL, PO4:4.9 mg/dL
   Microbiology: bcx: pending (OSH to be reviewed)
   Assessment and Plan
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 HYPOTENSION (NOT SHOCK)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ACIDOSIS, RESPIRATORY
   66M with DM, htn, dvts, LE ulces, septic shock at OSH with new afib,
   ARF requiring HD briefly, initially transferred to vascular, the to ICU
   and intubated with worsening pulmonary edema and hypotension.
   Hemodynamically he is labile, likely ongoing sepsis, though with very
   little pressor requirement. Will avoid additional fluid. As needed will
   consider albumin. Continue pressors as needed. Abx and steroids to
   continue for now but will consider change in coverage and discuss with
   vascular source control, etc. Fluid balance goal is even to negative.
   Reason for respiratory failure is not entirely clear, but lung
   mechanics and gas exchange are likely adequate. Will do an SBT and
   check ABG, and then extubate.
   Renal function has improved and remains stable. Other issues stable
   see resident note for plans.
   ICU Care
   Nutrition: npo for possible extubation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2176-9-26**] 10:29 AM
   Multi Lumen - [**2176-9-26**] 10:40 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill